US08808703B2
Step 7: diethyl (14R,18R)-14-amino-18-(dodecyloxy)-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontylphosphonate
To a solution of diethyl (14R,18R)-14-(((9H-fluoren-9-yl)methoxy)carbonylamino)-18-(dodecyloxy)-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontylphosphonate (1 eq) was added 20% piperidine (50 eq) in acetonitrile. The resulting mixture was stirred at 25° C. until the deprotection completed. To the mixture was added toluene and then concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 100% EtOAc then 0-10% MeOH/DCM to give the product as a colorless oil.

reactant | diethyl (14R,18R)-14-(((9H-fluoren-9-yl)methoxy)carbonylamino)-18-(dodecyloxy)-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontylphosphonate | 1 eq | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(NCCOCCOCCOCCP(OCC)(OCC)=O)=O)CSC[C@@H](COCCCCCCCCCCCC)OCCCCCCCCCCCC | C57H97N2O11PS
reactant | piperidine | 50 eq | N1CCCCC1 | C5H11N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | C(C)#N | C2H3N
product | diethyl (14R,18R)-14-amino-18-(dodecyloxy)-13-oxo-3,6,9,20-tetraoxa-16-thia-12-azadotriacontylphosphonate | N[C@H](C(NCCOCCOCCOCCP(OCC)(OCC)=O)=O)CSC[C@@H](COCCCCCCCCCCCC)OCCCCCCCCCCCC | C42H87N2O9PS
